US07456168B2
6-Bromo-8-cyclopentyl-2-(4-hydroxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one
6-Bromo-8-cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (2.50 g, 6.76 mmol) and 6′-amino-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-4-ol (1.96 g, 10.13 mmol) were combined in toluene (10.0 ml) under nitrogen. The reaction mixture was heated to reflux and stirred for 4 h. The reaction mixture was cooled to RT and filtered. The solids were washed with additional toluene (75 mL total) and dried in vacuo to produce a yellow powder (566 mg, 1.13 mmol). MS (APCI+) 499, 501 (M+2, 100); 1H NMR δ(400 MHz, DMSO-d6) 10.06 (s, 1H), 8.96 (s, 1H), 8.04 (s, 1H), 7.83 (d, J=9.3 Hz, 1H), 7.46 (d, J=7.3 Hz, 1H), 5.93-5.89 (m, 1H), 4.71 (s, 1H), 3.65-3.60 (m, 1H), 3.53-3.51 (m, 2H), 2.88-2.83 (m, 2H), 2.57 (s, 3H), 2.18 (br, 2H), 1.90-1.81 (m, 5H), 1.59-1.48 (m, 3H); Anal. Calc'd for C23H27Br1N6O2, 0.45H2O: C, 54.43; H, 5.54; N, 16.56. Found: C, 54.04; H, 5.23; N, 16.33.

reactant | 6-Bromo-8-cyclopentyl-2-methanesulfinyl-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 6.76 mmol, 2.50 g | BrC1=C(C2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1)C | C14H16BrN3O2S
reactant | 6′-amino-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-4-ol | 10.13 mmol, 1.96 g | NC1=CC=C(C=N1)N1CCC(CC1)O | C10H15N3O
solvent | toluene | 10.0 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Bromo-8-cyclopentyl-2-(4-hydroxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1.13 mmol, 566 mg | BrC1=C(C2=C(N=C(N=C2)NC2=CC=C(C=N2)N2CCC(CC2)O)N(C1=O)C1CCCC1)C | C23H27BrN6O2
